US05126359
1-(4-Chlorobenzoyl)-1-(3-chloro-1,2,4-triazol-1-yl)-cyclopropane
34 g (246 mmol) of potassium carbonate and 35 g (338 mmol) of 3-chloro-1,2,4-triazole are initially introduced into 130 ml of acetone under reflux and 50 g (169 mol) of 2-bromo-4-chloro-1-(4-chlorophenyl)-butan-1-one in 60 ml of acetone are added dropwise. The mixture is boiled under reflux for 8 hours, the solution is filtered off with suction from the residue and the solvent is stripped off in vacuo. The residue is taken up in ethyl acetate, washed with water and dried over sodium sulphate, and the solvent is evaporated. Chromatography on silica gel (eluent: dichloromethane) gives 42.9 g of the title compound (90% of theory) of m.p. 85° C.

reactant | potassium carbonate | 246 mmol, 34 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chloro-1,2,4-triazole | 338 mmol, 35 g | ClC1=NNC=N1 | C2H2ClN3
reactant | 2-bromo-4-chloro-1-(4-chlorophenyl)-butan-1-one | 169 mol, 50 g | BrC(C(=O)C1=CC=C(C=C1)Cl)CCCl | C10H9BrCl2O
solvent | acetone | 60 ml | CC(=O)C | C3H6O
solvent | acetone | 130 ml | CC(=O)C | C3H6O
product | 1-(4-Chlorobenzoyl)-1-(3-chloro-1,2,4-triazol-1-yl)-cyclopropane | 42.9 g, 90% | ClC1=CC=C(C(=O)C2(CC2)N2N=C(N=C2)Cl)C=C1 | C12H9Cl2N3O
